US06713473B1
3-Fluoro-benzohydrazine (3.3 g) and cyclohexanone (2.2 g) were added to ethanol (30 ml) and the mixture was stirred for 2 hours under reflux. The reaction mixture was concentrated and the resulting residue was recrystallized from hexane to obtain 7-fluoro-carbazole (1.81 g, 48%). Then, concentrated sulfuric acid (20 ml) was cooled to 0° C. and added with 7-fluoro-carbazole (2.1 g) and sodium nitrate (900 mg), and then the mixture was stirred for 10 minutes. The reaction mixture was poured on an ice layer and filtered to obtain 7-fluoro-6-nitro-carbazole (1.1 g, 42%). The resulting 7-fluoro-6-nitro-carbazole (500 mg) and KOH (200 mg) were stirred in acetonitrile as a solvent, and then the mixture was added dropwise with 2-iodopropane (500 mg) and stirred for 8 hours. The reaction mixture was added with water and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography (adsorbent: silica gel, developing solvent: ethyl acetate/hexane) to obtain 7-fluoro-1-isopropyl-6-nitro-carbazole (254 mg, 43%). The resulting 7-fluoro-1-isopropyl-6-nitro-carbazole (500 mg) and Fe (400 mg) were stirred in i-PrOH/water solvent (1:1) under reflux. The reaction mixture was extracted with ethyl acetate and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography (adsorbent: silica gel, developing solvent: ethyl acetate/hexane) to obtain 6-amino-7-fluoro-isopropyl-carbazole (290 mg, 65%). The resulting amino compound (500 mg) was dissolved in chloroform (10 ml), and the solution was added dropwise with phenyl chloroformate (190 mg) and stirred for 2 hours. The reaction mixture was added with water and extracted. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography (adsorbent: silica gel, developing solvent: ethyl acetate/hexane) to obtain phenylurethane (263 mg, 61%).

reactant | 7-fluoro-1-isopropyl-6-nitro-carbazole | 500 mg | FC1=C(C=C2C=3C=CC=C(C3NC2=C1)C(C)C)[N+](=O)[O-] | C15H13FN2O2
solvent | i-PrOH water | CC(C)O.O
catalyst | Fe | 400 mg | [Fe] | Fe
product | 6-amino-7-fluoro-isopropyl-carbazole | 290 mg, 65% | NC=1C=C2C=3C=CC=C(C3NC2=CC1F)C(C)C | C15H15FN2
